US07915271B2
To a solution of methyl 2″-{[(4S,5R)-5-(2-chloropyridin -4-yl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (48 mg, 0.077 mmol) in THF (1 mL) and K2CO3 (1N) (1 mL) was added trimethylboroxine (0.107 mL, 0.768 mmol) and 1,1-bis(di-tert-butylphosphino)ferrocene palladium dichloride (7.1 mg, 0.011 mmol). The mixture was sealed and heated at 80° C. overnight. The mixture was diluted with water and EtOAc and filtered through Celite. The organic layer was separated and the aqueous layer was extracted with EtOAc (2×). The combined organic layers were washed with brine (1×), dried (Na2SO4), filtered and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel to give methyl 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-5-(2-methylpyridin-4-yl)-2-oxo-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate. LCMS calc.=605.2; found=605.0 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 8.49 (t, J=4.3 Hz, 1H); 7.98 (t, J=6.6 Hz, 1H); 7.91 (t, J=10.0 Hz, 1H); 7.73 (s, 0.5H); 7.67 (s, 0.5H); 7.65 (s, 1H); 7.47-7.39 (m, 2H); 7.33-7.26 (m, 1H); 7.15 (dd, J=2.2, 5.7 Hz, 1H); 7.09 (dd, J=6.8, 8.4 Hz, 1H); 7.06 (s, 0.5H); 7.00 (s, 0.5H); 6-95 (d, J=4.8 Hz, 0.5H); 6.90 (d, J=4.7 Hz, 0.5H); 5.43 (d, J=8.2 Hz, 0.5H); 5.18 (d, J=8.1 Hz, 0.5H); 4.92 (d, J=15.8 Hz, 0.5H); 4.87 (d, J=15.8 Hz, 0.5H); 4.22 (d, J=15.8 Hz, 0.5H); 4.00 (d, J=15.8 Hz, 0.5H); 3.95 (s, 3H); 3.89 (s, 1.5H); 3.88 (s, 1.5H); 3.81-3.73 (m, 1H); 2.57 (s, 1.5H); 2.56 (s, 1.5H); 2.39 (s, 1.5H); 2.34 (s, 1.5H); 0.57 (d, J=6.6 Hz, 1.5H); 0.47 (d, J=6.6 Hz, 1.5H).

reactant | methyl 2″-{[(4S,5R)-5-(2-chloropyridin -4-yl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.077 mmol, 48 mg | ClC1=NC=CC(=C1)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C | C33H28ClF3N2O5
reactant | trimethylboroxine | 0.768 mmol, 0.107 mL | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | K2CO3 | 1N, 1 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4′-methoxy-2-methyl-2″-{[(4S,5R)-4-methyl-5-(2-methylpyridin-4-yl)-2-oxo-1,3-oxazolidin-3-yl]methyl}-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC(=NC=C1)C)=O | C34H31F3N2O5
